US07166598B2
A solution of 1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[3-(3-pyridyl)-2-propynyl]-piperazine (0.11 g) in methanol (10 ml) was treated with 4N hydrogen chloride in ethyl acetate (1 ml) and the mixture was evaporated under reduced pressure. The residue was triturated with a mixture of dichloromethane and ethyl acetate and the resulting powder was collected by filtration to give 1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[3-(3-pyridyl)-2-propynyl]piperazine dihydrochloride (0.07 g).

reactant | 1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[3-(3-pyridyl)-2-propynyl]-piperazine | 0.11 g | FC(C=1C=C(C(=O)N2C(CN(CC2)CC#CC=2C=NC=CC2)CC2=CC(=C(C=C2)C)O)C=C(C1)C(F)(F)F)(F)F | C29H25F6N3O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3-hydroxy-4-methylbenzyl)-4-[3-(3-pyridyl)-2-propynyl]piperazine dihydrochloride | 0.07 g | Cl.Cl.FC(C=1C=C(C(=O)N2C(CN(CC2)CC#CC=2C=NC=CC2)CC2=CC(=C(C=C2)C)O)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C29H25F6N3O2.2ClH/c1-19-6-7-21(13-26(19)39)12-25-18-37(9-3-5-20-4-2-8-36-17-20)10-11-38(25)27(40)22-14-23(28(30,31)32)16-24(15-22)29(33,34)35;;/h2,4,6-8,13-17,25,39H,9-12,18H2,1H3;2*1H
